US08106064B2
2-methylpyridine methanol (3.39 g, 27.56 mmol) was stirred with imidazole (6.12 g, 90 mmol), and tert-butyldimethylchlorosilane (6.78 g, 45 mmol) in DMF 960 ml) at room temperature for overnight. The mixture was diluted with ether, washed with aqueous saturated sodium bicarbonate, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo. The residue was purified by silica gel column chromatography (eluent, ether:hexane (1:2)) to afford 5.9 g (90%) of 4-(tert-butyl-dimethyl-silanyloxymethyl)-2-methyl-pyridine as a colorless oil. 1H NMR (200 MHz, CDCl3) δ0.11 (6H, s), 0.94 (9H, s), (3H, s), 2.52 (3H, s), 4.67 (2H, s), 6.97 (1H, d, J=6.7 Hz), 7.08 (1H, s), 8.10 (1H, d, J=6.7 Hz).

reactant | 2-methylpyridine methanol | 27.56 mmol, 3.39 g | CC1(NC=CC=C1)CO | C7H11NO
reactant | imidazole | 90 mmol, 6.12 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 45 mmol, 6.78 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | ether | CCOCC | C4H10O
solvent | DMF | 960 ml | CN(C)C=O | C3H7NO
product | 4-(tert-butyl-dimethyl-silanyloxymethyl)-2-methyl-pyridine | 5.9 g, 90% | C(C)(C)(C)[SiH2]OC(C1=CC(=NC=C1)C)(C)C | C13H23NOSi
